US07598391B2
1,1-Dicyclohexyl-3-[5-(3-dimethylamino-propysulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 3-dimethylamino-1-propylchloride.

reactant | 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C17H24N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 3-dimethylamino-1-propylchloride | CN(CCCCl)C | C5H12ClN
product | 1,1-Dicyclohexyl-3-[5-(3-dimethylamino-propysulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCCCN(C)C)C1CCCCC1 | C21H36N4OS2
